US04331814
5-(2,6,6-trimethyl-3-oxo-cyclohex-1-enyl)-3-methyl-1-phenylsulphonyl-penta-2,4-diene was prepared by oxidation of 5-(2,6,6-trimethyl-cyclohex-1-enyl)-3-methyl-1-phenyl-sulphonyl-penta-2,4-diene by means of sodium meta-periodate in accordance with the process described in French Pat. No. 2,071,508. The product oxidised in this way was itself obtained by reacting sodium phenylsulphinate with 5-(2,6,6-trimethyl-cyclohex-1-enyl)-3-methyl-1-chloro-penta-2,4-diene as described in Example 1.

reactant | 5-(2,6,6-trimethyl-cyclohex-1-enyl)-3-methyl-1-phenyl-sulphonyl-penta-2,4-diene | CC1=C(C(CCC1)(C)C)C=CC(=CC(C1=CC=CC=C1)=S(=O)=O)C | C21H26O2S
reactant | sodium meta-periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium phenylsulphinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 5-(2,6,6-trimethyl-cyclohex-1-enyl)-3-methyl-1-chloro-penta-2,4-diene | CC1=C(C(CCC1)(C)C)C=CC(=CCCl)C | C15H23Cl
product | 5-(2,6,6-trimethyl-3-oxo-cyclohex-1-enyl)-3-methyl-1-phenylsulphonyl-penta-2,4-diene | CC1=C(C(CCC1=O)(C)C)C=CC(=CCS(=O)(=O)C1=CC=CC=C1)C | C21H26O3S
